US03937833
To a solution of 200 ml of piperidine in 500 ml of tetrahydrofuran are added 33.5 g (0.1 mole) of 2,7-bis(2-chloroacetyl)xanthene and 2g of potassium iodide with warming. The reaction mixture is allowed to stand for 7 days, filtered and the filtrate evaporated to dryness, leaving a residue which is treated with dilute acid and filtered. The filtrate is made alkaline, and the resulting oily product is extracted with methylene chloride. The methylene chloride solution is acidified with ethereal HCl which gives an oily product that is recrystallized from methanol-diethyl ether then vacuum dried to give 2,7-bis(piperidinoacetyl)xanthene dihydrochloride, M.P. 260°-262°C.

reactant | piperidine | 200 ml | N1CCCCC1 | C5H11N
reactant | 2,7-bis(2-chloroacetyl)xanthene | 0.1 mole, 33.5 g | ClCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCl)=O | C17H12Cl2O3
reactant | potassium iodide | [I-].[K+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2,7-bis(piperidinoacetyl)xanthene dihydrochloride | Cl.Cl.N1(CCCCC1)CC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CN1CCCCC1)=O | InChI=1S/C27H32N2O3.2ClH/c30-24(18-28-11-3-1-4-12-28)20-7-9-26-22(15-20)17-23-16-21(8-10-27(23)32-26)25(31)19-29-13-5-2-6-14-29;;/h7-10,15-16H,1-6,11-14,17-19H2;2*1H
